US05684011
Step 1: 4-(pentafluoroethyl)-2(1H)-pyrimidinone
Pentafluoropropionic anhydride (62 g) was cooled in an ice-bath to 5° C. and pyridine (15.8 g) was added dropwise with stirring. The temperature was maintained between 10°-15° C. while ethyl vinyl ether (14.4 g) in pyridine (15.8 g) was added dropwise over 40 minutes. This gave a thick pale yellow gum which was stirred for a further 1 hour at 20° C. and then 25 cm3 of water was added (exotherm)., resulting in an orange clear solution. Urea (12 g) in ethanol (40 cm3) and water (20 cm3) was added and the resulting mixture was heated under reflux for 3 hours. The reaction was cooled to 5° C. and stirred for 30 minutes. The precipitate that formed was recovered by filtration and washed with water and hexane, to give a pale orange solid which was dried in a vacuum dessicator (18 g). M+ =214.

reactant | Pentafluoropropionic anhydride | 62 g | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
reactant | ethyl vinyl ether | 14.4 g | C(=C)OCC | C4H8O
reactant | Urea | 12 g | NC(=O)N | CH4N2O
solvent | pyridine | 15.8 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
solvent | water | 20 cm3 | O | H2O
solvent | water | 25 cm3 | O | H2O
solvent | pyridine | 15.8 g | N1=CC=CC=C1 | C5H5N
product | 4-(pentafluoroethyl)-2(1H)-pyrimidinone | FC(C(F)(F)F)(C1=NC(NC=C1)=O)F | C6H3F5N2O
